US06166006
To tert-butyl 6-(4-methylphenyl)-2H-1-benzopyran-3-carboxylate (3.00 g) was added 4N hydrochloric acid-ethyl acetate (10 ml) at room temperature, and the mixture was stirred for 16 hours. To the reaction mixture was added hexane, and crystal was collected by filtration and washed with hexane to give 6-(4-methylphenyl)-2H-1-benzopyran-3-carboxylic acid (2.14 g) as pale yellow crystals.

reactant | tert-butyl 6-(4-methylphenyl)-2H-1-benzopyran-3-carboxylate | 3.00 g | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CO2)C(=O)OC(C)(C)C)C1 | C21H22O3
reactant | hydrochloric acid ethyl acetate | 4N, 10 ml | Cl.C(C)(=O)OCC
solvent | hexane | CCCCCC | C6H14
product | 6-(4-methylphenyl)-2H-1-benzopyran-3-carboxylic acid | 2.14 g | CC1=CC=C(C=C1)C=1C=CC2=C(C=C(CO2)C(=O)O)C1 | C17H14O3
